US05254565
A mixture of 3-[3-(4-acetoxy-3,5-diisopropylphenyl)ureido]-4-(2-chlorophenyl)-6,8-dimethylquinoline (300 mg), methanol (20 ml) and 1N-sodium hydroxide (2 ml) was stirred for 1.5 hrs. at room temperature. After concentrated, the mixture was diluted with water, acidified with 2N-hydrochloric acid and then extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and then distilled to remove the solvent. The residue was recrystallized from a mixture of acetone and isopropyl ehter to give 4-(2-chlorophenyl)-3-[3-(4-hydroxy-3,5-diisopropylphenyl)ureido]-6,8-dimethylquinoline as colorless prisms. Yield 116 mg (41.9%). m.p. 194°-196° C.

reactant | 3-[3-(4-acetoxy-3,5-diisopropylphenyl)ureido]-4-(2-chlorophenyl)-6,8-dimethylquinoline | 300 mg | C(C)(=O)OC1=C(C=C(C=C1C(C)C)NC(NC=1C=NC2=C(C=C(C=C2C1C1=C(C=CC=C1)Cl)C)C)=O)C(C)C | C32H34ClN3O3
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2-chlorophenyl)-3-[3-(4-hydroxy-3,5-diisopropylphenyl)ureido]-6,8-dimethylquinoline | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)NC(=O)NC1=CC(=C(C(=C1)C(C)C)O)C(C)C | C30H32ClN3O2
